US20010000345A1
To a solution of 1.08 g of 5-aminobenzimidazole in 20 mL of glacial acetic acid are added 2.68 g of sodium acetate. To this solution is added dropwise 0.4 mL of bromine. The resulting brown precipitate is stirred at room temperature for 2 hours. The reaction mixture is rotary evaporated and the residue is diluted with water and ethyl acetate. The mixture is basified with 1N sodium hydroxide and decanted. The organic layer is washed with water followed by brine. The aqueous layers are extracted with ethyl acetate; the combined organic layers are dried over magnesium sulfate, filtered and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 12.5 to 16.5% methanol/methylene chloride followed by recrystallization from hexanes/ethyl acetate to provide 887 mg of 5-amino-4-bromobenzimidazole as a pale brown solid.

reactant | 5-aminobenzimidazole | 1.08 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | sodium acetate | 2.68 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.4 mL | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-amino-4-bromobenzimidazole | 887 mg | NC1=C(C2=C(N=CN2)C=C1)Br | C7H6BrN3
